US04130652
By heating the solution of 9.1 g (0.03 mole) of 2-(2-ethoxy-2-phenyl-ethenyl)-1-pyrroline-tetrafluoroborate in 50 ml of tert.-butylamine in a closed tube at 105° for 18 hours and processing analogously to Example 1, there is obtained crude 2-[2-phenyl-2-(tert.-butylimino)-ethylidene]-pyrrolidine. The crude base is dissolved in ether, and 2.8 g of methanesulphonic acid is added, whereupon 2-[2-phenyl-2-(tert.-butylimino)-ethylidene]-pyrrolidine-(1:1)-methanesulphonate crystallises out. It melts at 208°-209° (decomposition) after recrystallisation from ethyl acetate.

reactant | 2-(2-ethoxy-2-phenyl-ethenyl)-1-pyrroline tetrafluoroborate | 0.03 mole, 9.1 g | C(C)OC(=CC1=NCCC1)C1=CC=CC=C1.F[B-](F)(F)F
reactant | tert.-butylamine | 50 ml | C(C)(C)(C)N | C4H11N
product | 2-[2-phenyl-2-(tert.-butylimino)-ethylidene]-pyrrolidine | C1(=CC=CC=C1)C(C=C1NCCC1)=NC(C)(C)C | C16H22N2
